US07700634B2
To a cooled solution (dry-ice acetone bath) of 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester (500 mg, 1.3 mmol) in diethyl ether (50 ml) was added methyl magnesium bromide solution (0.52 ml, 3M in diethyl ether, 1.56 mmol) and the reaction stirred for 15 minutes, a further portion of methyl magnesium bromide solution (0.25 ml, 3M in diethyl ether, 0.75 mmol) was then added and the reaction mixture stirred for 5 minutes. The reaction was then quenched with saturated aqueous ammonium chloride (5 ml) and the reaction allowed to warm to room temperature. The reaction mixture was poured into a separating funnel and the organics washed with water (20 ml). The aqueous layer was then backwashed with diethyl ether (20 ml). The combined organic layers were dried over magnesium sulfate, filtered and the solvent removed in vacuo. The resulting residue was purified by flash column chromatography to give 1-[3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-[1,2,4]thiadiazol-5-yl]-ethanone (170 mg, 0.46 mmol) as a yellow solid.

reactant | 3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 1.3 mmol, 500 mg | C(C)OC(=O)C1=NC(=NS1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C21H25N3O3S
reactant | methyl magnesium bromide | 1.56 mmol, 3M, 0.52 ml | C[Mg]Br
reactant | methyl magnesium bromide | 0.75 mmol, 3M, 0.25 ml | C[Mg]Br
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-[3-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-[1,2,4]thiadiazol-5-yl]-ethanone | 0.46 mmol, 170 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=NSC(=N1)C(C)=O | C20H23N3O2S
